US08877774B2
Step 5. 4-((3-(Amino(phenyl)methyl)phenoxy)methyl)-N-(4,4-diethoxybutyl)benzamide
To a solution of 4-((3-(azido(phenyl)methyl)phenoxy)methyl)-N-(4,4-diethoxybutyl)benzamide (0.51 g, 1.03 mmol) in tetrahydrofuran (10 mL), was added polymer supported triphenylphosphine (3 mmol/g, 0.38 g, 1.13 mmol) and water (0.2 mL). The reaction mixture was stirred at 60° C. for 16 hours. The reaction mixture was allowed to cool to room temperature, filtered, the filter-cake washed with dichloromethane and concentrated under reduced pressure to give the title compound (0.41 g, 83%).

reactant | 4-((3-(azido(phenyl)methyl)phenoxy)methyl)-N-(4,4-diethoxybutyl)benzamide | 1.03 mmol, 0.51 g | N(=[N+]=[N-])C(C=1C=C(OCC2=CC=C(C(=O)NCCCC(OCC)OCC)C=C2)C=CC1)C1=CC=CC=C1 | C29H34N4O4
reactant | triphenylphosphine | 1.13 mmol, 0.38 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 0.2 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-((3-(Amino(phenyl)methyl)phenoxy)methyl)-N-(4,4-diethoxybutyl)benzamide | 0.41 g, 83% | NC(C=1C=C(OCC2=CC=C(C(=O)NCCCC(OCC)OCC)C=C2)C=CC1)C1=CC=CC=C1 | C29H36N2O4
